US08389717B2
b) (S)-2-({4-Methoxy-6-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-[1,3,5]triazin-2-yl}-methyl-amino)-2-phenyl-ethanol
This compound was prepared from (4-chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine and (R)-2-methylamino-2-phenyl-ethanol in analogy to example 1c. Purification by chromatography on Si—NH2 gel (Isolute) using ethyl acetate as an eluent gave the title compound as a colorless solid in 32% yield.

reactant | (4-chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC1=NC(=NC(=N1)OC)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C15H15ClN6O2
reactant | (R)-2-methylamino-2-phenyl-ethanol | CN[C@@H](CO)C1=CC=CC=C1 | C9H13NO
product | (S)-2-({4-Methoxy-6-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-[1,3,5]triazin-2-yl}-methyl-amino)-2-phenyl-ethanol | 32% yield | COC1=NC(=NC(=N1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)N([C@H](CO)C1=CC=CC=C1)C | C24H27N7O3
